* File: G5_XOR3_N1.pex.netlist.pex
* Created: Sun Apr 10 19:25:53 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G5_XOR3_N1_VDD 2 5 9 12 14 17 34 35 44 45 54 55 77 79 80 81 84 86 90
+ 93 96 98 102 104 108 114 116 118 120 121 122 128 137 142 Vss
c124 142 Vss 0.00486824f
c125 137 Vss 0.00581297f
c126 128 Vss 0.00564406f
c127 122 Vss 0.0021675f
c128 121 Vss 2.39889e-19
c129 120 Vss 4.91069e-19
c130 119 Vss 4.36646e-19
c131 116 Vss 3.56526e-19
c132 114 Vss 0.00137025f
c133 108 Vss 8.30092e-19
c134 104 Vss 0.00588096f
c135 102 Vss 0.0013924f
c136 98 Vss 0.00493548f
c137 96 Vss 0.00124955f
c138 93 Vss 0.00253806f
c139 90 Vss 0.00359127f
c140 86 Vss 0.0066064f
c141 84 Vss 0.0015095f
c142 81 Vss 8.67096e-19
c143 80 Vss 0.0091443f
c144 79 Vss 0.00867106f
c145 77 Vss 0.00186435f
c146 55 Vss 0.0350971f
c147 54 Vss 0.099468f
c148 45 Vss 0.0346156f
c149 44 Vss 0.1003f
c150 35 Vss 0.0346129f
c151 34 Vss 0.0990563f
c152 17 Vss 0.165917f
c153 14 Vss 0.00210084f
c154 12 Vss 0.00231756f
c155 9 Vss 0.16518f
c156 5 Vss 0.165156f
c157 2 Vss 0.00208065f
r158 112 114 4.83471
r159 108 142 1.16709
r160 106 122 0.128424
r161 106 108 2.16729
r162 105 121 0.494161
r163 104 112 0.652036
r164 104 105 7.46046
r165 102 137 1.16709
r166 100 121 0.128424
r167 100 102 2.16729
r168 99 120 0.494161
r169 98 122 0.494161
r170 98 99 10.3363
r171 94 119 0.0828784
r172 94 96 2.00578
r173 93 120 0.128424
r174 92 119 0.551426
r175 92 93 3.91779
r176 90 128 1.16709
r177 88 119 0.551426
r178 88 90 5.835
r179 87 118 0.326018
r180 86 120 0.494161
r181 86 87 10.1279
r182 82 116 0.0828784
r183 82 84 1.82344
r184 80 121 0.494161
r185 80 81 15.8795
r186 79 118 0.326018
r187 78 116 0.551426
r188 78 79 13.0871
r189 77 116 0.551426
r190 76 81 0.652036
r191 76 77 4.16786
r192 57 142 0.0952857
r193 55 57 1.45875
r194 54 58 0.652036
r195 54 57 1.45875
r196 51 55 0.652036
r197 47 137 0.238214
r198 45 47 1.45875
r199 44 48 0.652036
r200 44 47 1.45875
r201 41 45 0.652036
r202 37 128 0.238214
r203 35 37 1.45875
r204 34 38 0.652036
r205 34 37 1.45875
r206 31 35 0.652036
r207 17 58 2.5674
r208 17 51 2.5674
r209 14 114 1.16709
r210 12 96 1.16709
r211 9 48 2.5674
r212 9 41 2.5674
r213 5 38 2.5674
r214 5 31 2.5674
r215 2 84 1.16709
.ends

.subckt PM_G5_XOR3_N1_C 2 4 6 8 17 20 40 43 47 52 57 62 85 87 96 97 Vss
c59 97 Vss 6.9907e-19
c60 87 Vss 0.00433475f
c61 85 Vss 0.00742725f
c62 62 Vss 0.00258068f
c63 57 Vss 0.00592074f
c64 52 Vss 0.00198267f
c65 47 Vss 7.02443e-19
c66 43 Vss 6.02755e-19
c67 40 Vss 6.7024e-19
c68 20 Vss 0.220565f
c69 17 Vss 0.0783954f
c70 15 Vss 0.0247918f
c71 8 Vss 0.00236553f
c72 4 Vss 0.0830741f
r73 88 97 0.0685365
r74 87 89 0.652036
r75 87 88 10.3363
r76 85 97 0.0685365
r77 85 96 24.7154
r78 52 89 2.16729
r79 47 62 1.16709
r80 47 97 2.08393
r81 43 57 1.16709
r82 43 96 0.531835
r83 40 43 0.0833571
r84 23 57 0.238214
r85 21 23 0.326018
r86 21 23 0.1167
r87 20 24 0.652036
r88 20 23 6.7686
r89 17 23 0.262036
r90 15 23 0.326018
r91 15 17 0.05835
r92 8 52 1.16709
r93 6 62 0.8
r94 4 24 2.5674
r95 2 17 2.50905
.ends

.subckt PM_G5_XOR3_N1_VSS 3 6 11 15 18 34 37 44 45 47 54 55 73 78 83 88 93 98
+ 107 112 121 123 124 125 130 131 136 142 153 154 155 156 Vss
c131 156 Vss 3.75522e-19
c132 155 Vss 3.87529e-19
c133 154 Vss 4.4306e-19
c134 142 Vss 0.00208493f
c135 136 Vss 0.00324551f
c136 131 Vss 8.38057e-19
c137 130 Vss 0.00579302f
c138 125 Vss 8.35119e-19
c139 124 Vss 0.00509021f
c140 123 Vss 0.00330591f
c141 121 Vss 0.00273904f
c142 112 Vss 0.00381998f
c143 107 Vss 0.00405934f
c144 98 Vss 0.00484708f
c145 93 Vss 0.00171362f
c146 88 Vss 5.59372e-19
c147 83 Vss 9.83293e-19
c148 78 Vss 0.00292041f
c149 73 Vss 0.00232164f
c150 55 Vss 0.0338093f
c151 54 Vss 0.0988897f
c152 47 Vss 7.82991e-20
c153 45 Vss 0.0347002f
c154 44 Vss 0.0989329f
c155 37 Vss 6.43685e-20
c156 35 Vss 0.0349827f
c157 34 Vss 0.1003f
c158 18 Vss 0.00259162f
c159 15 Vss 0.163916f
c160 11 Vss 0.167978f
c161 6 Vss 0.00155055f
c162 3 Vss 0.167004f
r163 148 153 1.70882
r164 143 156 0.494161
r165 142 148 0.652036
r166 142 143 7.46046
r167 138 156 0.128424
r168 137 155 0.494161
r169 136 144 0.652036
r170 136 137 7.46046
r171 132 155 0.128424
r172 130 156 0.494161
r173 130 131 15.8795
r174 126 154 0.0828784
r175 124 155 0.494161
r176 124 125 13.0037
r177 123 131 0.652036
r178 122 154 0.551426
r179 122 123 10.4196
r180 121 154 0.551426
r181 120 125 0.652036
r182 120 121 6.83529
r183 93 153 2.87582
r184 88 112 1.16709
r185 88 144 2.16729
r186 83 107 1.16709
r187 83 138 2.16729
r188 78 132 4.83471
r189 73 98 1.16709
r190 73 126 4.33978
r191 57 112 0.238214
r192 55 57 1.45875
r193 54 58 0.652036
r194 54 57 1.45875
r195 51 55 0.652036
r196 47 107 0.0952857
r197 45 47 1.45875
r198 44 48 0.652036
r199 44 47 1.45875
r200 41 45 0.652036
r201 37 98 0.238214
r202 35 37 1.45875
r203 34 38 0.652036
r204 34 37 1.45875
r205 31 35 0.652036
r206 18 93 1.16709
r207 15 58 2.5674
r208 15 51 2.5674
r209 11 48 2.5674
r210 11 41 2.5674
r211 6 78 1.16709
r212 3 38 2.5674
r213 3 31 2.5674
.ends

.subckt PM_G5_XOR3_N1_CI 2 6 8 34 39 44 79 80 82 83 84 89 Vss
c62 95 Vss 1.58755e-19
c63 89 Vss 0.00511711f
c64 84 Vss 1.26921e-19
c65 83 Vss 3.02933e-19
c66 82 Vss 0.0013099f
c67 80 Vss 4.32078e-19
c68 79 Vss 0.00369198f
c69 44 Vss 0.00182014f
c70 39 Vss 0.00109627f
c71 34 Vss 0.00267797f
c72 8 Vss 0.00276539f
c73 6 Vss 0.00212882f
c74 2 Vss 0.00154772f
r75 90 95 0.494161
r76 89 91 0.652036
r77 89 90 10.3363
r78 85 95 0.128424
r79 83 95 0.494161
r80 83 84 1.70882
r81 82 84 0.652036
r82 81 82 5.33486
r83 79 81 0.652036
r84 79 80 18.9638
r85 75 80 0.652036
r86 44 91 1.66714
r87 39 85 1.66714
r88 34 75 4.33457
r89 8 44 1.16709
r90 6 39 1.16709
r91 2 34 1.16709
.ends

.subckt PM_G5_XOR3_N1_A 2 4 7 11 21 24 45 49 51 54 55 56 58 62 63 69 74 Vss
c81 74 Vss 0.00494965f
c82 69 Vss 0.00491712f
c83 63 Vss 7.45325e-19
c84 62 Vss 6.24332e-19
c85 56 Vss 0.00115533f
c86 55 Vss 0.00958405f
c87 54 Vss 0.00423116f
c88 51 Vss 0.00507608f
c89 49 Vss 0.135015f
c90 45 Vss 0.125273f
c91 24 Vss 0.213865f
c92 21 Vss 0.0724995f
c93 19 Vss 0.0247918f
c94 7 Vss 1.00758f
c95 4 Vss 0.0850321f
r96 66 74 1.16709
r97 63 66 0.750214
r98 61 69 1.16709
r99 61 62 0.513084
r100 58 61 0.0614211
r101 55 63 0.0685365
r102 55 56 10.4613
r103 53 56 0.652036
r104 53 54 8.66914
r105 51 54 0.652036
r106 51 62 10.2113
r107 47 49 4.53833
r108 44 74 0.262036
r109 44 45 2.26917
r110 41 44 2.26917
r111 36 49 0.00605528
r112 35 45 0.00605528
r113 32 47 0.00605528
r114 31 41 0.00605528
r115 27 69 0.0952857
r116 25 27 0.326018
r117 25 27 0.1167
r118 24 28 0.652036
r119 24 27 6.7686
r120 21 27 0.3335
r121 19 27 0.326018
r122 19 21 0.2334
r123 11 36 2.5674
r124 11 32 2.5674
r125 7 11 12.837
r126 7 35 2.5674
r127 7 11 12.837
r128 7 31 2.5674
r129 4 28 2.5674
r130 2 21 2.334
.ends

.subckt PM_G5_XOR3_N1_BI 2 6 8 18 21 32 37 42 52 57 66 72 73 Vss
c61 73 Vss 1.47395e-19
c62 72 Vss 8.14419e-19
c63 66 Vss 0.00107279f
c64 57 Vss 0.00255458f
c65 52 Vss 0.00234753f
c66 42 Vss 0.00105993f
c67 37 Vss 0.001668f
c68 32 Vss 0.00236426f
c69 21 Vss 0.0573997f
c70 6 Vss 0.0573997f
c71 2 Vss 0.0015046f
r72 72 73 0.655813
r73 71 72 3.501
r74 66 71 0.655813
r75 42 57 1.16709
r76 42 73 2.00578
r77 37 52 1.16709
r78 37 77 12.0712
r79 37 66 2.00578
r80 32 49 1.16709
r81 32 77 2.08393
r82 21 57 0.50025
r83 18 52 0.50025
r84 8 21 1.80885
r85 6 18 1.80885
r86 2 49 0.1
.ends

.subckt PM_G5_XOR3_N1_AI 2 7 11 31 36 37 46 51 60 70 72 82 Vss
c55 82 Vss 2.57983e-19
c56 72 Vss 0.00283715f
c57 70 Vss 0.00386641f
c58 60 Vss 0.00539669f
c59 51 Vss 0.00147157f
c60 46 Vss 0.00243924f
c61 37 Vss 0.127837f
c62 36 Vss 6.45995e-20
c63 31 Vss 0.128147f
c64 7 Vss 0.997493f
c65 2 Vss 0.0015046f
r66 78 82 0.652036
r67 72 82 8.96089
r68 70 74 0.652036
r69 70 72 4.20954
r70 60 63 0.1
r71 51 63 1.16709
r72 51 74 1.83386
r73 46 78 4.58464
r74 36 60 0.262036
r75 36 37 2.334
r76 33 36 2.20433
r77 29 31 4.53833
r78 26 37 0.00605528
r79 25 31 0.00605528
r80 22 33 0.00605528
r81 21 29 0.00605528
r82 11 26 2.5674
r83 11 22 2.5674
r84 7 11 12.837
r85 7 25 2.5674
r86 7 11 12.837
r87 7 21 2.5674
r88 2 46 1.16709
.ends

.subckt PM_G5_XOR3_N1_B 2 4 6 8 16 17 24 26 33 38 42 45 50 55 60 65 73 74 80 86
+ 91 92 Vss
c91 92 Vss 1.10364e-19
c92 91 Vss 9.61135e-19
c93 86 Vss 5.98353e-19
c94 80 Vss 8.23772e-19
c95 74 Vss 5.75465e-19
c96 73 Vss 0.00321909f
c97 65 Vss 0.00250661f
c98 60 Vss 0.00207758f
c99 55 Vss 0.00386058f
c100 50 Vss 0.00113661f
c101 45 Vss 4.31637e-19
c102 42 Vss 4.09773e-19
c103 38 Vss 5.37175e-19
c104 33 Vss 6.95992e-20
c105 26 Vss 0.0573997f
c106 24 Vss 7.82991e-20
c107 20 Vss 0.0247918f
c108 17 Vss 0.0338376f
c109 16 Vss 0.183114f
c110 8 Vss 0.0573997f
c111 4 Vss 0.0714013f
c112 2 Vss 0.0826046f
r113 90 92 0.65228
r114 90 91 3.46076
r115 86 91 0.65228
r116 73 80 0.0685365
r117 73 74 10.3363
r118 69 74 0.652036
r119 50 65 1.16709
r120 50 92 2.1395
r121 45 60 1.16709
r122 45 86 2.1006
r123 45 80 2.08393
r124 38 55 1.16709
r125 38 69 2.16729
r126 38 42 0.0729375
r127 36 55 0.0476429
r128 33 65 0.50025
r129 26 60 0.50025
r130 24 55 0.357321
r131 20 36 0.326018
r132 20 24 0.40845
r133 17 36 6.7686
r134 16 36 0.326018
r135 16 36 0.1167
r136 13 17 0.652036
r137 8 33 1.80885
r138 6 26 1.80885
r139 4 24 2.15895
r140 2 13 2.5674
.ends

.subckt PM_G5_XOR3_N1_Z 2 4 30 33 Vss
c30 30 Vss 0.00324462f
c31 4 Vss 0.00153036f
c32 2 Vss 0.00166246f
r33 33 35 4.50129
r34 30 33 4.668
r35 4 35 1.16709
r36 2 30 1.16709
.ends

